US06407101B1
To a solution of tert-butyl 6-(5-cyano-1-methyl-1H-pyrrol-2-yl)-4,4-dimethyl-2-oxo-2H-3,1-benzoxazine-1(4H)-carboxylate (1 eq, 1.94 g, 5.10 mmol) in THF (150 mL) at −78° C. was added N-bromosuccinimide (1.1 eq, 1.0 g, 5.61 mmol). The solution was allowed to warm and stir for 16 hours Pyridine (1 mL) was added and the mixture was poured into water (150 mL), the layers were separated, the aqueous layer was extracted with ethyl acetate (3×10 mL) and the combined organic layer was washed with brine, dried over MgSO4 and concentrated in vacuo. The product, tert-butyl 6-(3-bromo-5-cyano-1-methyl-1H-pyrrol-2-yl)-4,4-dimethyl-2-oxo-2H-3,1-benzoxazine-1(4H)-carboxylate was obtained by crystallization from 20% ethyl acetate/hexane as a white crystalline solid. 1H NMR (300 MHz, d6-DMSO) δ1.56 (s, 9H), 1.71 (s, 6H), 3.65 (s, 3H), 7.30 (s, 1H), 7.44 (d, 1H, J=8.4 Hz), 7.52 (d, 1H, J=8.4 Hz), 7.55 (s, 1H). M/z (ESI (+)) 461 (M+H)+. Anal. calcd for C21H22N3O4, C, 54.8; H, 4.82; N, 9.13. Found: C, 54.9; H, 4.86; N, 9.1.

reactant | tert-butyl 6-(5-cyano-1-methyl-1H-pyrrol-2-yl)-4,4-dimethyl-2-oxo-2H-3,1-benzoxazine-1(4H)-carboxylate | 5.10 mmol, 1.94 g, 1 eq | C(#N)C1=CC=C(N1C)C=1C=CC2=C(C(OC(N2C(=O)OC(C)(C)C)=O)(C)C)C1 | C21H23N3O4
reactant | N-bromosuccinimide | 5.61 mmol, 1.0 g, 1.1 eq | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
reactant | water | 150 mL | O | H2O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | tert-butyl 6-(3-bromo-5-cyano-1-methyl-1H-pyrrol-2-yl)-4,4-dimethyl-2-oxo-2H-3,1-benzoxazine-1(4H)-carboxylate | BrC1=C(N(C(=C1)C#N)C)C=1C=CC2=C(C(OC(N2C(=O)OC(C)(C)C)=O)(C)C)C1 | C21H22BrN3O4
